US09127003B2
(R)-(3-Aminopiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone, hydrochloride
To a solution of (R)-(3-aminopiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone (2.61 g, 6.09 mmol) in dichloromethane (DCM) (1.5 mL) was added HCl (2M in diethyl ether) (3 ml, 6.00 mmol). The mixture was sonicated for 2 minutes and then concentrated under vacuum to afford a yellow solid. This was dissolved in a minimum volume of hot ethanol. The solvent was removed under nitrogen and the product dried in a vacuum pistol at 50° C. overnight and then at 60° C. over the weekend to give the title compound as a yellow solid (2.7 g).

reactant | (R)-(3-aminopiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone | 6.09 mmol, 2.61 g | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC2CC2)C)C=C1 | C25H28N6O
reactant | HCl | 6.00 mmol, 2M, 3 ml | Cl | ClH
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | (R)-(3-Aminopiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone, hydrochloride | 2.7 g | Cl.N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC2CC2)C)C=C1 | InChI=1S/C25H28N6O.ClH/c1-29-21-9-8-18(25(32)30-11-3-5-19(26)15-30)12-20(21)28-24(29)22-13-17-4-2-10-27-23(17)31(22)14-16-6-7-16;/h2,4,8-10,12-13,16,19H,3,5-7,11,14-15,26H2,1H3;1H/t19-;/m1./s1
